US07435837B2
Treatment of (R)-7-bromo-2-bromomethyl-5-fluoro-2,3-dihydrobenzofuran (0.5 g, 1.6 mmol) and 2-chlorobenzene boronic acid (0.76 g, 4.8 mmol) generally according to the procedure described for Intermediate 37 gave 0.55 g (99%) (R)-2-bromomethyl-7-(2-chloro-phenyl)-5-fluoro-2,3-dihydrobenzofuran as a colorless oil. HRMS EI M+339.9657; [α]D25=+29.6 (c 8.14 in methanol).

reactant | (R)-7-bromo-2-bromomethyl-5-fluoro-2,3-dihydrobenzofuran | 1.6 mmol, 0.5 g | BrC1=CC(=CC=2C[C@@H](OC21)CBr)F | C9H7Br2FO
reactant | 2-chlorobenzene boronic acid | 4.8 mmol, 0.76 g | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
product | (R)-2-bromomethyl-7-(2-chloro-phenyl)-5-fluoro-2,3-dihydrobenzofuran | 0.55 g, 99% | BrC[C@@H]1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2)Cl)F | C15H11BrClFO
